US07799810B2
Step 1: [2-(Pyridin-3-ylcarbamoyl)-ethyl]-carbamic acid tert-butyl ester
TEA (2.2 ml, 16 mmol) is added to a stirred solution of BOC-β-alanine (2.4 g, 12.7 mmol), HOAt (0.68 g, 5.0 mmol), EDCl.HCl (2.43 g, 12.7 mmol) in DCM and stirred at room temperature. After 1 hour, 3-aminopyridine (1.0 g, 10.6 mmol) is added and the mixture is stirred at room temperature for a further 3 hours. The mixture is then diluted with DCM (200 ml) and washed with 0.1 M HCl followed by 1M NaOH. The organic portion is dried (MgSO4) and concentrated in vacuo to afford the title compound as a white crystalline solid.

reactant | BOC-β-alanine | 12.7 mmol, 2.4 g | C(=O)(OC(C)(C)C)NCCC(=O)O | C8H15NO4
reactant | HOAt | 5.0 mmol, 0.68 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDCl | CCN=C=NCCCN(C)C.Cl
reactant | HCl | 12.7 mmol, 2.43 g | Cl | ClH
reactant | 3-aminopyridine | 10.6 mmol, 1.0 g | NC=1C=NC=CC1 | C5H6N2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | [2-(Pyridin-3-ylcarbamoyl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCC(NC=1C=NC=CC1)=O)=O | C13H19N3O3
